US07402595B2
6-Chloro-1-oxo-4-phenyl-1H-isochromen-3-carboxylic acid (150 mg) was dissolved in methanol (3.0 ml) and O-methylhydroxylamine hydrochloride (420 mg) and sodium methoxide (270 mg) were added. The mixture was stirred at room temperature for 12 hrs. and concentrated under reduced pressure. The residue was partitioned between ethyl acetate and 1N hydrochloric acid, and the organic layer was dried over magnesium sulfate and concentrated under reduced pressure to dryness. Then, 4N hydrochloric acid ethyl acetate solution (3 ml) was added to the residue and the mixture was stirred at room temperature for 12 hrs. Water was added to wash the reaction mixture, and the organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give 6-chloro-2-methoxy-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid.

reactant | 6-Chloro-1-oxo-4-phenyl-1H-isochromen-3-carboxylic acid | 150 mg | ClC=1C=C2C(=C(OC(C2=CC1)=O)C(=O)O)C1=CC=CC=C1 | C16H9ClO4
reactant | O-methylhydroxylamine hydrochloride | 420 mg | Cl.CON
reactant | sodium methoxide | 270 mg | C[O-].[Na+]
solvent | methanol | 3.0 ml | CO | CH4O
product | 6-chloro-2-methoxy-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | ClC=1C=C2C(=C(N(C(C2=CC1)=O)OC)C(=O)O)C1=CC=CC=C1 | C17H12ClNO4
